US07655666B2
2-Amino-5-iodo-4-ethyl-benzoic acid methyl ester (280 mg, 0.92 mmol) and 1-methyl-5-tributylstannanyl-1H-pyrazole (409 mg, 1.2 equiv) were weighed in air and added to a flame-dried flask. [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (75 mg, 0.1 equiv) was added and the flask was closed by a septum. Dioxane (1 mL) was added and the mixture was stirred at 100° C. for 18 h (TLC control). The mixture was dissolved with EtOAc, filtered and evaporated to dryness. The crude product was purified by flash chromatography (hexanes to EtOAc/hexanes (4:6)) to yield 2-amino-4-ethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (163 mg, 68% yield) as a yellow solid. ESI-MS: m/z 260.3 [M+H]+, rt 6.37 min.

reactant | 2-Amino-5-iodo-4-ethyl-benzoic acid methyl ester | 0.92 mmol, 280 mg | COC(C1=C(C=C(C(=C1)I)CC)N)=O | C10H12INO2
reactant | 1-methyl-5-tributylstannanyl-1H-pyrazole | 409 mg, 1.2 equiv | CN1N=CC=C1[Sn](CCCC)(CCCC)CCCC
reactant | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium | 75 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-amino-4-ethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 163 mg, 68% yield | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)CC)N)=O | C14H17N3O2
